US06713474B2
A mixture of 5-bromo-phenoxybenzonitrile (2.0 g, 7.22 mmol), diboron pinacol ester (2.2 g, 8.66 mmol), potassium acetate (2.12 g, 21.7 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.35 g, 0.49 mmol) in N,N-dimethylformamide (40 mL) was heated at 85° C. for 20 hours then cooled and the solvents evaporated under reduced pressure. The residue was triturated with dichloromethane (40 mL), then filtered through a pad of celite and the filtrate concentrated to give an oil which was purified by flash chromatography on silica gel using heptane/ethyl acetate (9:1) as an eluent to give 2-phenoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzonitrile (1.56 g, 67%): 1H NMR (DMSO-d6, 400 MHz) δ 8.01(s, 1H), 7.88(d, 1H), 7.49 (t, 2H), 7.32(t, 1H), 7.22(d, 2H), 6.90(d, 1H), 1.29(s, 12H); RP-HPLC (Hypersil HS, 5 μm, 100 A, 4.6×250 mm; 25%-100% acetonitrile—0.05 M ammonium acetate over 10 min, 1 ml/min) tr 13.85 min.

reactant | 5-bromo-phenoxybenzonitrile | 7.22 mmol, 2.0 g | BrC=1C=CC=C(OC2=C(C#N)C=CC=C2)C1 | C13H8BrNO
reactant | diboron pinacol ester | 8.66 mmol, 2.2 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 21.7 mmol, 2.12 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.49 mmol, 0.35 g | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-phenoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzonitrile | 1.56 g, 67% | O(C1=CC=CC=C1)C1=C(C#N)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H20BNO3
